US08703807B2
Step 4: 2-[6-((S)-2,2,2-Trifluoro-1-methyl-ethoxy)-pyridin-3-yl]-2-aza-spiro[4.5]decane-1,8-dione
DMSO (16.3 ml) was added dropwise over a period of 5 minutes to a solution of 8-hydroxy-2-[6-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-pyridin-3-yl]-2-aza-spiro[4.5]decan-1-one (39.3 g) in dichloromethane (400 ml) that was cooled down to −78° C. in a CO2/acetone-bath. After 5 minutes, oxalylchloride (15.6 ml) was added dropwise over a period of 15 minutes and stirring was continued for 30 minutes at −78° C. Then, triethylamine (42.7 ml) was added dropwise over a period of 15 minutes to the reaction mixture and after 5 minutes, the mixture was allowed to warm to 20° C. and stirred further 2 h at R.T. The reaction mixture was poured into ice/water and was acidified with 2M aqueous HCl solution to pH 3. The aqueous phase was extracted two times with dichloromethane and the combined organic layers were washed with brine, dried over Na2SO4 and filtered. The solvent was evaporated and the residue was purified by flash chromatography (silica gel, gradient 20% to 60 of AcOEt in hexane) to give the title compound as an off white solid (23.96 g). MS (m/e): 357.2 (MO.

reactant | DMSO | 16.3 ml | CS(=O)C | C2H6OS
reactant | 8-hydroxy-2-[6-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-pyridin-3-yl]-2-aza-spiro[4.5]decan-1-one | 39.3 g | OC1CCC2(CCN(C2=O)C=2C=NC(=CC2)O[C@H](C(F)(F)F)C)CC1 | C17H21F3N2O3
reactant | oxalylchloride | 15.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | HCl | 2M | Cl | ClH
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | triethylamine | 42.7 ml | C(C)N(CC)CC | C6H15N
product | 2-[6-((S)-2,2,2-Trifluoro-1-methyl-ethoxy)-pyridin-3-yl]-2-aza-spiro[4.5]decane-1,8-dione | FC([C@@H](OC1=CC=C(C=N1)N1C(C2(CC1)CCC(CC2)=O)=O)C)(F)F | C17H19F3N2O3
